US07989444B2
2-(Cyclopropylmethyl)-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-(cyclopropylmethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.19 mmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a faint yellow slightly hygroscopic solid (0.07 mmol).

reactant | 2-(cyclopropylmethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.19 mmol | C1(CC1)CC=1OC2=CC3=C(CCNCC3)C=C2N1 | C15H18N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2-(Cyclopropylmethyl)-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C1(CC1)CC=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1 | InChI=1S/C31H34N6OS.ClH/c1-20-7-10-24-25(5-3-6-26(24)32-20)30-34-35-31(36(30)2)39-16-4-13-37-14-11-22-18-27-28(19-23(22)12-15-37)38-29(33-27)17-21-8-9-21;/h3,5-7,10,18-19,21H,4,8-9,11-17H2,1-2H3;1H
